US05015661
rac-6-Acetyloxy-2-(benzo[b]thiophen-3-yl)ethynyl-3,4-dihydro-2,5,7,8-tetramethyl-2H-1-benzopyran.
A mixture of 0.544 g of rac-6-acetyloxy-2-ethynyl3,4-dihydro-2,5,7,8-tetramethyl-2H-1-benzopyran, 0.64 g of 3-bromobenzothiophene, 90 mg of triphenylphosphine, 20 mg of cuprous iodide, 2 ml of triethylamine and 40 ml of dimethylformamide was stirred and degased by a stream of argon for 15 minutes. Palladium acetate, 30 mg, was then added and the mixture was heated at 95° C. for 5 hours. The reaction mixture was partitioned between saturated sodium bicarbonate solution and toluene. The organic phase was washed with water, dried and evaporated. The residue was chromatographed over 50 g of silica gel using toluene for elution. The combined clean fractions were crystallized from hexane to give the title compound with m.p. 96-99°.

reactant | rac-6-acetyloxy-2-ethynyl3,4-dihydro-2,5,7,8-tetramethyl-2H-1-benzopyran | 0.544 g | C(C)(=O)OC=1C(=C(C2=C(CCC(O2)(C)C#C)C1C)C)C | C17H20O3
reactant | 3-bromobenzothiophene | 0.64 g | BrC1=CSC2=C1C=CC=C2 | C8H5BrS
reactant | triphenylphosphine | 90 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | rac-6-Acetyloxy-2-(benzo[b]thiophen-3-yl)ethynyl-3,4-dihydro-2,5,7,8-tetramethyl-2H-1-benzopyran | C(C)(=O)OC=1C(=C(C2=C(CCC(O2)(C)C#CC=2C3=C(SC2)C=CC=C3)C1C)C)C | C25H24O3S
